US08349880B2
Methyl 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate, hydroiodide (500 mg, 1.69 mmol, from preparation A) and 6-chloro-2-(6-chloropyridin-3-yl)hexanoic acid (442 mg, 1.69 mmol, from preparation AJ) were coupled and then reacted with hydrazine (0.211 mL, 6.74 mmol) using a procedure analogous to Step A of Example 13. The crude products were purified using silica gel chromatography (40-100% ethyl acetate/chloroform) to afford 5-(5-chloro-1-(6-chloropyridin-3-yl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine (190 mg, 0.375 mmol, 23% yield) as a pink foam. LC-MS (M+H)+ 508.1.

reactant | Methyl 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate, hydroiodide | I.ClC=1N=CN(C1)C1=C(C=C(C=C1)NC(=N)SC)OC
reactant | 6-chloro-2-(6-chloropyridin-3-yl)hexanoic acid | 1.69 mmol, 442 mg | ClCCCCC(C(=O)O)C=1C=NC(=CC1)Cl | C11H13Cl2NO2
reactant | hydrazine | 6.74 mmol, 0.211 mL | NN | H4N2
product | 5-(5-chloro-1-(6-chloropyridin-3-yl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine | 0.375 mmol, 190 mg, 23% yield | ClCCCCC(C=1C=NC(=CC1)Cl)C1=NC(=NN1)NC1=CC(=C(C=C1)N1C=NC(=C1)Cl)OC | C22H22Cl3N7O
